US04855292
To 1-cyclopropyl-7-[3-(t-butoxycarbonylaminomethyl)-1-pyrrolidinyl]-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.1 g) are added 10% hydrochloric acid (4 ml) and ethanol (2 ml), and the mixture is reacted at 70° C. for 10 minutes. After concentrating, the resulting residue is crystallized by adding thereto diethyl ether and then recrystallized from ethyl acetate-methanol to give 1-cyclopropyl-7-(3-aminomethyl-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (45 mg), as yellow crystals, m.p. 195°-200° C.

reactant | 1-cyclopropyl-7-[3-(t-butoxycarbonylaminomethyl)-1-pyrrolidinyl]-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)CNC(=O)OC(C)(C)C)F)=O)C(=O)O | C24H30FN3O5
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-cyclopropyl-7-(3-aminomethyl-1-pyrrolidinyl)-6-fluoro-8-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 45 mg | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C)N1CC(CC1)CN)F)=O)C(=O)O | InChI=1S/C19H22FN3O3.ClH/c1-10-16-13(6-15(20)17(10)22-5-4-11(7-21)8-22)18(24)14(19(25)26)9-23(16)12-2-3-12;/h6,9,11-12H,2-5,7-8,21H2,1H3,(H,25,26);1H
